US07745452B2
To a solution of 5.0 g (13.289 mmol) N-[3,4-difluoro-2-(4-fluorobenzoyl)phenyl]-N′-(2,2,2-trifluoroethyl)urea (open form) and 5,6-difluoro-4-(4-fluorophenyl)-4-hydroxy-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one (closed form) in 25 ml THF was added 9.261 mL (66.443 mmol) triethylamine. After 1 h at 80° C., the reaction mixture was cooled to −78° C. To this solution was added 0.969 mL (13.289 mmol) thionyl chloride. After 30 mins at −78° C., 45 mL (41.195 mmol) allylmagnesium bromide (1.0M solution in dibutyl ether) was added dropwise. After 30 minutes at −78° C., the reaction mixture was quenched with saturated NH4Cl and warmed to room temperature. The reaction mixture was extracted three times with EtOAc and washed with brine. The organic layer was dried over NaSO4, filtered and concentrated in vacuo. Purification by flash chromatography (1×14 cm silica gel, linear gradient 0-35% EtOAc:hexane) afforded 4-allyl-5,6-difluoro-4-(4-fluorophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one. 1H NMR (CDCl3, 400 MHz) δ 7.46 (br s, 1H, ArNHC═O); 7.42-7.40 (m, 2H, ArH); 7.10-7.00 (m, 3H, ArH); 6.44 (m, 1H, ArH); 5.73-5.66 (m, 1H, CH2CH═CH2); 5.13-5.09 (m, 2H, CH2CH═CH2); 3.73 (m, 2H, NCH2CF3); 3.15 (m, 2H, CH2CH═CH2). HRMS (ES) exact mass calcd for C19H14F6N2O: 401.1083, Found: 401.1075.

reactant | N-[3,4-difluoro-2-(4-fluorobenzoyl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | 13.289 mmol, 5.0 g | FC=1C(=C(C=CC1F)NC(=O)NCC(F)(F)F)C(C1=CC=C(C=C1)F)=O | C16H10F6N2O2
reactant | 5,6-difluoro-4-(4-fluorophenyl)-4-hydroxy-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | FC1=C2C(N(C(NC2=CC=C1F)=O)CC(F)(F)F)(O)C1=CC=C(C=C1)F | C16H10F6N2O2
reactant | triethylamine | 66.443 mmol, 9.261 mL | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 13.289 mmol, 0.969 mL | S(=O)(Cl)Cl | Cl2OS
reactant | allylmagnesium bromide | 41.195 mmol, 1.0M, 45 mL | C(C=C)[Mg]Br
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 4-allyl-5,6-difluoro-4-(4-fluorophenyl)-3-(2,2,2-trifluoroethyl)-3,4-dihydroquinazolin-2(1H)-one | C(C=C)C1(N(C(NC2=CC=C(C(=C12)F)F)=O)CC(F)(F)F)C1=CC=C(C=C1)F | C19H14F6N2O
